US07713993B2
(1) Synthesis of 2-(4-fluorophenyl)-1-methoxycarbonyl-2-oxoethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylate
IPEA (3 mL) was added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (1 g) and methyl 2-chloro-3-(4-fluorophenyl)-3-oxopropionate (CAS #160727-96-8, 1.1 g) in DMF (10 mL), and the reaction solution was stirred at room temperature for two hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 792 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 1 g | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | methyl 2-chloro-3-(4-fluorophenyl)-3-oxopropionate | 1.1 g | ClC(C(=O)OC)C(=O)C1=CC=C(C=C1)F | C10H8ClFO3
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorophenyl)-1-methoxycarbonyl-2-oxoethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylate | 792 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)OC(C(=O)C1=CC=C(C=C1)F)C(=O)OC | C24H21FN2O6
